US09085583B2
To a solution of tert-butyl 2-methyl-1H-indole-3-carboxylate (2 g, 8.65 mmol) and 3-chlorobutan-2-one (1.1 g, 10.38 mmol) in acetonitrile (18 mL) were added potassium carbonate (3.2 g, 25.8 mmol) and potassium iodide (1.4 g, 8.65 mmol). The reaction mixture was stirred at 90° C. overnight. To the reaction mixture was added water (20 mL). The aqueous layer was extracted with ethyl acetate (50 mL×4). The combined organic layers were dried over sodium sulfate and concentrated. The crude product was purified by silica gel column (petroleum ether/ethyl acetate 100:1 to 80:1) to give tert-butyl 2-methyl-1-(3-oxobutan-2-yl)-1H-indole-3-carboxylate (600 mg, yield: 23%) as a yellow oil. LRMS (M+H+) m/z: calcd 301.17. found 302.

reactant | tert-butyl 2-methyl-1H-indole-3-carboxylate | 8.65 mmol, 2 g | CC=1NC2=CC=CC=C2C1C(=O)OC(C)(C)C | C14H17NO2
reactant | 3-chlorobutan-2-one | 10.38 mmol, 1.1 g | ClC(C(C)=O)C | C4H7ClO
reactant | potassium carbonate | 25.8 mmol, 3.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 8.65 mmol, 1.4 g | [I-].[K+]
solvent | acetonitrile | 18 mL | C(C)#N | C2H3N
solvent | water | 20 mL | O | H2O
product | tert-butyl 2-methyl-1-(3-oxobutan-2-yl)-1H-indole-3-carboxylate | 600 mg, yield: 23% | CC=1N(C2=CC=CC=C2C1C(=O)OC(C)(C)C)C(C)C(C)=O | C18H23NO3
